US05652201
A vessel is charged with 102 parts of 126 neutral petroleum oil, 36 parts of a neutral calcium sulfonate (prepared by sulfonating a 480 neutral oil and neutralizing the sulfonic acid with sodium hydroxide followed by metathesis with calcium chloride) and 12 parts of a succinimide dispersant (prepared by reacting polyisobutene succinic anhydride with tetraethylene pentamine). The contents of the vessel are mixed, and thereafter there is added a mixture of 200 parts of water containing 119 parts of potassium borate (formed by reacting 52 parts of potassium hydroxide with 145 parts of boric acid). The contents are vigorously agitated to form a stable micro-emulsion of the aqueous phase within the petroleum oil. The emulsion is dehydrated at a temperature of 132° C. to yield a stable dispersion of partculate potassium triborate in the diluent oil.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | calcium chloride | [Cl-].[Ca+2].[Cl-]
reactant | succinimide | C1(CCC(N1)=O)=O | C4H5NO2
reactant | succinic anhydride | C1(CCC(=O)O1)=O | C4H4O3
reactant | tetraethylene pentamine | NCCNCCNCCNCCN | C8H23N5
reactant | potassium borate | B([O-])([O-])[O-].[K+].[K+].[K+]
solvent | water | O | H2O
product | potassium triborate | B([O-])([O-])[O-].B([O-])([O-])[O-].B([O-])([O-])[O-].[K+].[K+].[K+].[K+].[K+].[K+].[K+].[K+].[K+] | InChI=1S/3BO3.9K/c3*2-1(3)4;;;;;;;;;/q3*-3;9*+1
